US08912300B2
The same process as in Synthetic Example 1 was conducted except that the ortho-phenylbenzyl alcohol in Synthetic Example 1 was changed to para-phenylbenzyl alcohol Consequently, 22.4 g of para-phenylbenzyl acrylate was obtained. The obtained para-phenylbenzyl acrylate was solid at ordinary temperature and had a melting point of 32° C. and a refractive index of 1.5920 at 40° C. The measurement result of 1H-NMR is shown below.

reactant | ortho-phenylbenzyl alcohol | C1(=CC=CC=C1)C1=C(CO)C=CC=C1 | C13H12O
reactant | para-phenylbenzyl alcohol | C1(=CC=CC=C1)C1=CC=C(CO)C=C1 | C13H12O
product | para-phenylbenzyl acrylate | 22.4 g | C(C=C)(=O)OCC1=CC=C(C=C1)C1=CC=CC=C1 | C16H14O2
